US03931113
2.36 moles Hylene W
1.57 moles toluene diisocyanate of 80% 2,4- and 20% 2,6- isomers; urethane content 14.7%; NCO 0.05%; Inh. V. 1.69

reactant | toluene diisocyanate | 1.57 moles | CC=1C(N=C=O)=CC(N=C=O)=CC1 | C9H6N2O2
reactant | urethane | NC(=O)OCC | C3H7NO2
product | Hylene W | C1CC(CCC1CC2CCC(CC2)N=C=O)N=C=O | C15H22N2O2
